US04622400
Alkali fusion of sodium 1-methyl-1,2,3,4-tetrahydro-quinoline-7-sulfonate
The bath temperature was brought to 260° and a mixture of sodium hydroxide 60 g. and potassium hydroxide 40 g. was allowed to fuse. The anhydrous sodium sulfonate 20 g. was added in portions and each was well stirred and wetted by the liquid alkali before the next addition. The light brown sludge slowly darkened, generally producing a spongy cap to the reaction mixture which had to be broken and pushed into the stirred melt. After six hours, all solid had disappeared to produce a dark liquid and brown liquid drops were present on the undersurface of the clock-glass. This was poured directly into water 500 ml. in a conical flask and the the crucible was washed with another 100 ml. of water. The solution was cooled and extracted with benzene 50 ml., and the benzene extract after drying and evaporation gave 0.4 g. of brown oil consisting mainly of kairoline. The alkali solution was made acid pH 1 to 2 with 190 ml. of concentrated hydrochloric acid, sulfur dioxide could be smelt, and the cooled liquid was filtered. Powdered sodium carbonate (about 10 g.) was added to the stirred solution until the pH reached 8 when a light brown gummy precipitate appeared. This was extracted into benzene 150 ml. plus 100 ml., the benzene extract washed with water, dried (Na2SO4) and evaporated to give a clear brown gum which crystallized on standing 52 g. (40%). If chloroform was used for the extraction process emulsions developed which had to be separated by centrifuging.

reactant | sodium hydroxide | 60 g | [OH-].[Na+]
reactant | potassium hydroxide | 40 g | [OH-].[K+]
reactant | kairoline | CN1CCCC2=CC=CC=C21 | C10H13N
reactant | hydrochloric acid | Cl | ClH
reactant | sulfur dioxide | S(=O)=O | O2S
solvent | water | 500 ml | O | H2O
product | sodium 1-methyl-1,2,3,4-tetrahydro-quinoline-7-sulfonate | CN1CCCC2=CC=C(C=C12)S(=O)(=O)[O-].[Na+] | InChI=1S/C10H13NO3S.Na/c1-11-6-2-3-8-4-5-9(7-10(8)11)15(12,13)14;/h4-5,7H,2-3,6H2,1H3,(H,12,13,14);/q;+1/p-1
